Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
HD MTX C8, C2 Temodar
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ is a
___ ___ female with a history of DLBCL with
known CNS involvement. She is s/p 6 cycles R-mini-CHOP and 7
cycles of HD-MTX and presents for cycle 8 of high dose
methotrexate as part of her CNS disease treatment. During her
most recent admission from ___, there was concern
for progressive leptomeningeal disease given worsening
neurological symptoms. Given this, following her C7 of HD MTX, 
in
consultation with neuro-oncology, she received C1 of
Temozolamide. Now presents for C8 HD MTX/C2 Temodar.
 
Past Medical History:
PAST ONCOLOGIC HISTORY (PER OMR):
==================================
Patient was in ___ until ___ when she began to experience
fatigue, poor appetite and night sweats. Associated 20 lb weight
loss over the last month. She was living in ___ at the 
time
of sx onset,and moved to ___ in ___ to visit her
daughters. In ___, she was hospitalized at ___ for
dizziness, palpitations, diarrhea and was found to have
lymphocytosis and diffuse LAD on PE. CT chest at that time
demonstrated mediastinal, axillary, subpectoral, abdominal,
pelvis LAD c/f lymphoma. She was discharged with plan to follow
up with Dr. ___ outpatient work up of ? lymphoma.

On outpatient follow up (___) the patient was found to have
leukocytosis w/ lymphocytic proliferation felt to be ___s a hyperbilirbuinemia (tbili 5, dbili 5), alk phos 936 
and
uric acid of 7.6. Plan was to have LN biopsy on ___.

However, patient presented to ___ on ___ w/ HA and 
facial
tingling associated on the right. Was transferred to ___ for
further Mx on ___.

CT chest/abd/pelvis at ___ on ___ demonstrated
retroperitoneal, mesenteric and bilateral inguinal
lymphadenopathy, concerning for lymphoma, unchanged compared to
outside CT of the abdomen/pelvis from ___ along with
splenomegaly. CT chest demonstrated extensive mediastinal and
axillary lymphadenopathy. CT neck demonstrated mildly enlarged,
symmetric, bilateral neck lymph nodes and enlarged bilateral
palatine tonsils. 

- ___: Rt axillary LN biopsy was found to be c.w DLBCL, CD10
pos with MUM1 pos in only subset. C.w DLBCL-GC subtype.
Cytogenetics demonstrated 95% of the metaphase right axillary
lymph node cells examined had a complex abnormal karyotype with 
a
translocation involving chromosomes 3 and 14 that FISH has
confirmed has resulted in rearrangement of the BCL6 gene, 6q-,
trisomy 12, and other chromosome aberrations.
- ___: BM biopsy c/w DLBCl involvement.
- ___: MRI head demonstrated Homogeneous enhancement along the
left dura with associated high FLAIR signal. No signal
abnormalities are seen on the T1, T2, GRE or diffusion weighted
sequences suspicious for CNS involvement of lymphoma.
- ___: CSF demonstrated lymphoma with BCL-6 rearrangement and
deletion. 
- ___: Rcd R-CHOP with 50% reduction in dose of Doxorubicin due
to elevated TB.
- ___: Rcd 1 dose of IT MTX.
- ___: Rcd 8gm/m2 MTX. Course c.b prolonged mucositis and
febrile neutropenia and rash. Finally discharged on ___. 
- ___: Seen in clinic again. Admittted for another cycle of HD
MTX 8 gm/m2. Tolerated it well without any complications.
- ___: Rcd cycle 2 of R-CHOP with Neulasta. Tolerated it well
without any complications.
- ___: Admitted for overnight observation with headache 
and
weakness. Ct head neg for bleeds. No e.o infection found.
- ___: Admitted for cycle 3 of HD-MTX. Rcd it on ___.
Tolerated well without complications.
- ___: Rcd cycle 3 of R-CHOP with Neulasta. Tolerated it well
without any complications
- ___: Admitted with febrile neutropenia, mucositis, inability
to swallow/eat and fatigue. Remained in the hospital on TPN for 
2
weeks and discharged on ___ after she rcd cycle 4 of chemo. Pt
could not receive cycle 4 of HD-MTX on day 14 of cycle 3 of
R-CHOP.
- ___: MRI head showed decrease in dural thickening and
enhancement since the MR of ___. Calvarial signal
intensity unchanged concerning for persistent lymphoma. 
- ___: PET demonstrated CR.
- ___: Rcd R-mini-CHOP in house due to grade 4 
mucositis/febrile
neutropenia.
- ___: Rcd Neulasta with Cipro. 
- ___: Rcd modified dose of HD-MTX (5 gm/m2) due to grade 4
mucositis in the last cycle. This was dose # 4. Course again
complicated by mucositis which resolved with conservative 
measures.
- ___: Rcd R-mini-CHOP cycle 5 in the hospital just before
discharge.
- ___: Cycle 5 HD MTX given at 4gm/m2, dose reduced due to
persistent mucositis.
- ___: Rcd R-mini-CHOP cycle 6 with Neulasta support.
- ___: Rcd cycle 6 of HD-MTX also at 4 gm/m2. Tolerated well
without any complications.
- ___: PET demonstrated no e.o systemic disease.
- ___: MRI brain demonstrated interval mild improvement in
leptomeningeal and osseous disease. No new abnormalities.

PAST MEDICAL HISTORY:
=====================
- GERD
- Palpitations

 
Social History:
___
Family History:
Patient is unaware of her family history or whether or not she 
has a history of cancer in the family.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
VS: TC 98.9 137/79 109 18 98%RA
WT: 116 LBS
GEN: Pleasant woman, in no distress, lying in bed.
HEENT: Anicteric, PERLL, OP clear.
CARDIAC: RRR, normal s1/s2, no m/r/g.
LUNG: no respiratory distress, clear to auscultation
bilaterally; no crackles, wheezes, or rhonchi.
ABD: Soft, non-tender/non-distended, +bowel sounds.
EXT: WWP, no lower extremity edema, erythema or tenderness. 
NEURO: A&Ox3, good attention and linear thought, CN II-XII
intact. Strength ___ on upper extremities and ___ on lower
extremities. Sensation to light touch intact. 
SKIN: No significant rashes or lesions.
ACCESS: Right POC without erythema, tenderness or discharge.

DISCHARGE PHYSICAL EXAM:
VS: T 98.1 BP 146/67 HR 98 RR 18 SpO2 99 RA 
GEN: Pleasant woman, in no distress, lying in bed.
HEENT: Anicteric, PERLL, OP erythema mottling evolving.
Ulceration on inside of Right upper check resolving. No sinus
tenderness. 
CARDIAC: RRR, normal s1/s2, no m/r/g.
LUNG: no respiratory distress, clear to auscultation
bilaterally; no crackles, wheezes, or rhonchi.
ABD: Soft, non-tender/non-distended, +bowel sounds.
EXT: WWP, no lower extremity edema, erythema or tenderness. 
NEURO: A&Ox3, good attention and linear thought, grossly 
nonfocal
SKIN: No significant rashes or lesions.
ACCESS: Right POC without erythema, tenderness or discharge.
 
Pertinent Results:
ADMISSION LABS:

___ 01:20PM BLOOD WBC-2.4*# RBC-4.52 Hgb-13.5 Hct-40.8 
MCV-90 MCH-29.9 MCHC-33.1 RDW-15.8* RDWSD-51.8* Plt ___
___ 01:20PM BLOOD Neuts-73* Bands-0 ___ Monos-6 Eos-1 
Baso-0 ___ Myelos-0 AbsNeut-1.75 AbsLymp-0.48* 
AbsMono-0.14* AbsEos-0.02* AbsBaso-0.00*
___ 01:20PM BLOOD UreaN-14 Creat-0.5 Na-141 K-3.6 Cl-98 
HCO3-29 AnGap-14
___ 01:20PM BLOOD ALT-23 AST-23 LD(LDH)-341* AlkPhos-80 
TotBili-0.3
___ 01:20PM BLOOD Calcium-9.1

DISCHARGE LABS:

___ 12:00AM BLOOD WBC-12.4*# RBC-3.61* Hgb-10.6* Hct-31.4* 
MCV-87 MCH-29.4 MCHC-33.8 RDW-15.9* RDWSD-49.7* Plt ___
___ 12:00AM BLOOD Neuts-61 Bands-2 Lymphs-10* Monos-26* 
Eos-0 Baso-0 ___ Metas-1* Myelos-0 AbsNeut-7.81* 
AbsLymp-1.24 AbsMono-3.22* AbsEos-0.00* AbsBaso-0.00*
___ 12:00AM BLOOD Glucose-96 UreaN-17 Creat-0.5 Na-139 
K-4.3 Cl-96 HCO3-27 AnGap-16
___ 12:00AM BLOOD ALT-25 AST-22 LD(LDH)-576* AlkPhos-86 
TotBili-0.2
___ 12:00AM BLOOD Albumin-3.8 Calcium-9.0 Phos-4.2 Mg-2.0
 
Brief Hospital Course:
Ms. ___ is a ___ 
___ female with history of DLBCL with known CNS 
involvement s/p 6 cycles R-mini-CHOP 8 cycles of HD-MTX and now
C2 of Temodar.

ACUTE ISSUES:
#DLBCL with CNS Involvement: She completed 6 cycles R-mini-CHOP
and 8 cycles of HD-MTX. She is in systemic remission, however,
she still has evidence of disease in her brain and progression
based on symptoms above and in most recent CSF. She was started
on IV Dexamethasone 4mg BID on ___ for symptom control. Her
dose was tapered down to 2mg daily outpatient and this was
continued on admission. We attempted to wean steroids, but
headache worsened, so now back on 2 mg daily of dex. Now
s/p C2 Temodar.
-Temozolamide 200mg IV daily (___), patient written 
for
prescription outpatient, however with evolving mucositis plan 
for
IV administration in-house. will look into suspension options 
for
future cycles to take at home as does not tolerate pills well 
regardless of mucositis sx.
-remain on 2mg dex daily
-Restart PJP ppx for now (Bactrim)
-neupogen began ___ for neutropenia (likely chemo related) off 
as of ___ with count recovery
-Follow up appointment to be arranged with Dr. ___, 
___ or sooner if issues arise

# Myalgias, concern for ILI: 
- respiratory precautions
- influenza negative
- respiratory viral panel with insufficient sample, repeat PCR
___ PND will f/u

# dyspnea on exertion: states worsened over last few days,
EKG/CXR WNL. ambulatory sat WNL. likely due to deconditioning
although can not exclude PE in setting of oncologic risk and
decrease motility
-CTA to r/o PE--neg
-monitor sx/sx
-consider echo and/or stress testing outpatient for further w/u 
if worsening sx Per daughter, her baseline dyspnea on exertion 
has been the same to her

#mucositis: stable. supportive care/pain
meds prn. if unable to take pills will change to IV's as able.
on IV temodar inhouse ___.

#Dysphagia/Voice Hoarseness: Significantly improved since last
discharge, now able to tolerate regular diet. Low threshold for
ENT/SLP consultations if worsening sx.

#Neurological Symptoms [Headache, Tinnitus > L, Blurred Vision]:
Ongoing symptoms, have not worsened since discharge on ___,
attributed to CNS involvement of her lymphoma. She received
HD MTX followed by 5 days of Temozolomide as above. 

CHRONIC/STABLE ISSUES:
======================
#Bilateral Hip/Leg pain: currently resolved. Started on ___
She has had no recent trauma or injury that preceded the event.
No exacerbating factors. Took Tylenol at home with good effect.
Her gait is stable and she can weight bear. She has no fevers,
back pain, numbness, tingling, new rashes or changes in bowel
habits so less likely occult hip fracture/lumbar radiculopathy.
Her steroid use increases the risk for osteonecrosis so will
obtain a plain x-ray first for evaluation. X-ray showed minimal
asymmetric right greater than left hip osteoarthritis. There was
no evidence of fracture or dislocation 
-Continue supportive pain management with Oxycodone/Tylenol PRN
-If worsens, consider further imaging with MRI

#GERD: Continue famotidine resumed omeprazole since MTX 
clearance.

#Constipation: Stooling daily, continue Colace and Senna PRN

CORE MEASURES:
==============
ACCESS: POC
DVT PPX: Lovenox 40mg daily, hold if platelets < 50K
GI PPX: Famotidine BID
BOWEL: Colace and Senna PRN
PAIN: Oxycodone/Tylenol PRN
CODE: Full Code (confirmed)
COMMUNICATION: Patient
EMERGENCY CONTACT HCP: ___ (daughter) ___
DISPO: home with services
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Docusate Sodium 100 mg PO TID:PRN constipation 
2. Senna 8.6 mg PO BID:PRN constipation 
3. Acyclovir 400 mg PO Q12H 
4. Artificial Tear Ointment 1 Appl BOTH EYES QHS 
5. Artificial Tears Preserv. Free ___ DROP BOTH EYES Q4H:PRN dry 
eye/irritation 
6. Dexamethasone 2 mg PO DAILY 
7. Famotidine 20 mg PO Q12H 
8. Omeprazole 40 mg PO DAILY 
9. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
10. FoLIC Acid 1 mg PO DAILY 
11. Lidocaine Viscous 2% 15 mL PO TID:PRN mouth soreness 
12. Maalox/Diphenhydramine/Lidocaine ___ mL PO QID:PRN mouth 
soreness 
13. OxyCODONE (Immediate Release) 2.5 mg PO Q6H:PRN Pain - 
Moderate 
14. Sodium Bicarbonate 1300 mg PO ASDIR 
15. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Famotidine 20 mg PO Q12H  
2.  famotidine 2.5 mL oral BID  
3.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  
4.  Acyclovir 400 mg PO TID  
5.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
6.  Artificial Tear Ointment 1 Appl BOTH EYES QHS  
7.  Artificial Tears Preserv. Free ___ DROP BOTH EYES Q4H:PRN 
dry eye/irritation  
8.  Dexamethasone 2 mg PO DAILY  
9.  Docusate Sodium 100 mg PO TID:PRN constipation  
10.  FoLIC Acid 1 mg PO DAILY  
11.  Lidocaine Viscous 2% 15 mL PO TID:PRN mouth soreness  
12.  Maalox/Diphenhydramine/Lidocaine ___ mL PO QID:PRN mouth 
soreness  
13.  Omeprazole 40 mg PO DAILY  
14.  OxyCODONE (Immediate Release) 2.5 mg PO Q6H:PRN Pain - 
Moderate  
15.  Senna 8.6 mg PO BID:PRN constipation  
16.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
lymphoma
CNS lymphoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted to receive HD Methotrexate and Temodar 
chemotherapy. You tolerated this well and will be discharged 
home.  You will follow up in the clinic as stated below. It was 
a pleasure taking care of you.
 
Followup Instructions:
___